US07612067B2
B. N-{5-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-oxazol-2-yl}-dimethylamine.
32 mg of 3-(2-Bromo-4-methyl-oxazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.08 mmol) and 78 mg of cesium carbonate (0.24 mmol) are placed into vial with 3 ml of dimethylamine 2.0 M in THF. The vial is capped with a Teflon cap and heated at 110° C. for 3 days. The reaction mixture is cooled to room temperature, concentrated, and applied onto a silica-gel chromatography column (Hexane:AcOEt:2M NH3 in MeOH=10:2:1) to give 24 mg of the title product. Yield 89%. mass spectrum (m/e): 342 (M+1). 1H-NMR (CDCl3): 6.71 (s, 1H), 3.34 (m, 1H), 3.13 (s, 6H), 2.56 (s, 3H), 2.49 (s, 3H), 2.14 (s, 3H), 1.84 (m, 4H), 0.89 (t, J=7.5 Hz, 6H).

reactant | 3-(2-Bromo-4-methyl-oxazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.08 mmol, 32 mg | BrC=1OC(=C(N1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C17H21BrN4O
reactant | cesium carbonate | 0.24 mmol, 78 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylamine | 2.0 M, 3 ml | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | N-{5-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-oxazol-2-yl}-dimethylamine | 24 mg, Yield 89% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(O2)N(C)C)C | C19H27N5O
